US05854275
To a solution of 1-[1-tert-butoxycarbonyl-3-(1,3-dioxo-1,3-dihydrobenzo[f]isoindol-2-yl)propylamino]cyclohexanecarboxylic acid (298 mg,0.62 mmol) in methylene chloride (10 mL) were added successively L-tyrosine methyl ether N-methylamide hydrochloride (180 mg, 0.74 mmol), 1-hydroxybenztriazole hydrate (95 mg, 0.62 mmol), triethylamine (0.12 mL, 0.86 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (142 mg, 0.74 mmol). The resulting mixture was stirred for 3 days at room temperature. After dilution with methylene chloride, the mixture was washed successively with saturated aqueous sodium bicarbonate, water, 0.5M aqueous hydrochloric acid and brine. The solution was dried over magnesium sulfate. The solvent was removed by evaporation under vacuum leaving an oil which was chromatographed on silica gel eluting with 45% hexane in ethyl acetate to afford 4-(1,3-dioxo-1,3dihydrobenzo[f]isoindol-2-yl)-2-{1-[2-(4-methoxyphenyl)-1-(methylcarbamoyl)-ethylcarbamoyl]cyclohexylamino}butyric acid tert-butyl ester, diastereomer A (91 mg, 22%) and diastereomer B (85 mg, 20%), in addition to a mixture of diastereomers A and B (169 mg, 41%).

reactant | 1-[1-tert-butoxycarbonyl-3-(1,3-dioxo-1,3-dihydrobenzo[f]isoindol-2-yl)propylamino]cyclohexanecarboxylic acid | 0.62 mmol, 298 mg | C(C)(C)(C)OC(=O)C(CCN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)NC3(CCCCC3)C(=O)O | C27H32N2O6
reactant | L-tyrosine methyl ether N-methylamide hydrochloride | 0.74 mmol, 180 mg | Cl.C[NH-].COC1=CC=C(C[C@H](N)C(=O)O)C=C1
reactant | 1-hydroxybenztriazole hydrate | 0.62 mmol, 95 mg | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 0.86 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.74 mmol, 142 mg | Cl.CN(CCCN=C=NCC)C
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(1,3-dioxo-1,3dihydrobenzo[f]isoindol-2-yl)-2-{1-[2-(4-methoxyphenyl)-1-(methylcarbamoyl)-ethylcarbamoyl]cyclohexylamino}butyric acid tert-butyl ester | C(C)(C)(C)OC(C(CCN1C(C=2C=C3C(=CC2C1=O)C=CC=C3)=O)NC3(CCCCC3)C(NC(CC3=CC=C(C=C3)OC)C(NC)=O)=O)=O | C38H46N4O7
